US06716863B2
(i) 3-[3-(benzyloxy)phenyl]-1-propanol
In an argon stream, 3-benzyloxybenzaldehyde (21.3 g) and diethylphosphonoethyl acetate (23.6 g) were suspended in dry DMF (250 ml). Under ice cooling and stirring, 65% oily sodium hydride (3.88 g) was added little by little; after completion of this addition, the mixture was stirred at room temperature for 2 hours. After the solvent was distilled off, the residue was dissolved in ethyl acetate and washed with water and saturated saline, after which it was dried over anhydrous sodium sulfate. Under reduced pressure, the solvent was distilled off to yield 33.15 g of a crude product of ethyl (E)-3-[3-(benzyloxy)phenyl]-2-propenate as an oily substance. This product was dissolved in ethanol (406 ml); ethylenediamine-treated 5% palladium carbon [Pd—C (en), 2.7 g] was added, followed by vigorous stirring in a hydrogen atmosphere. Hydrogen (1.75 L) was consumed to complete hydrogenation, and the catalyst was filtered off. Under reduced pressure, the solvent was distilled off; the residue was dissolved in dehydrated THF (120 ml). This solution was added drop by drop to a mixture of lithium aluminum hydride (4.61 g) suspended in dehydrated THF (120 ml) under ice cooling. The reaction mixture was stirred under ice cooling for 1.5 hours and at room temperature for 1 hour. The reaction mixture was added to ice water and acidified, after which it was extracted with ethyl acetate, washed with water and saturated saline, after which it was dried over anhydrous sodium sulfate. Under reduced pressure, the solvent was distilled off; the residue was purified by silica gel column chromatography to yield the titled compound (14.39 g) as a colorless oily substance.

reactant | 3-benzyloxybenzaldehyde | 21.3 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | diethylphosphonoethyl acetate | 23.6 g | C(C)(=O)OCCP(=O)(OCC)OCC | C8H17O5P
reactant | sodium hydride | 3.88 g | [H-].[Na+]
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | hydrogen | [H][H] | H2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 406 ml | C(C)O | C2H6O
catalyst | palladium carbon | 2.7 g | [C].[Pd]
product | 3-[3-(benzyloxy)phenyl]-1-propanol | 14.39 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCO | C16H18O2
